US04922052
To a 300 ml reaction vessel with a stirrer were fed 25 g of α-(3-benzylphenyl)propionic acid obtained in Experiment 5, 0.08 g of cobalt naphthenate and 100 ml of acetic acid as a solvent, and 150 ml/min of pure oxygen was fed into the vessel for 16 hours at a reaction temperature of 120 ° C. After the reaction, the solvent was removed by reduced-pressure distillation to obtain a solid substance. The solid substance was washed five times with 500 ml of water and it was dissolved in 500 ml of ether and washed three times again with water. After that, the ether was removed by reduced-pressure distillation and the product was finally recrystallized with a benzene/petroleum ether mixture to obtain 13.2 g of α-(3-benzoylphenyl)propionic acid (ketoprofen). The properties such as melting point and spectrum of the final product were the same as those of an authentic sample.

reactant | α-(3-benzylphenyl)propionic acid | 25 g | C(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)O)C | C16H16O2
reactant | oxygen | O=O | O2
solvent | cobalt naphthenate | 0.08 g | C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].[Co+2]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | α-(3-benzoylphenyl)propionic acid | 13.2 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C(=O)O)C | C16H14O3
